US04382943
2,3-Dihydro-7-[3-(4-ureidopiperidino)-propoxy]-cyclopenta[c][1]benzopyran-4(1H)-one hydrochloride
A mixture of 4.15 g. (0.01 mole) 7-[3-(4-aminopiperidino)-propoxy]-2,3-dihydrocyclopenta[c][1]benzopyran-4(1H)-one dihydrochloride, 4.0 g. potassium cyanate, 50 ml. water and 30 ml. 2 N hydrochloric acid is stirred for 3 days at ambient temperature, filtered and the precipitate extracted with hot ethanol. There are thus obtained 2.4 g. (57% of theory) of the desired compound; m.p. 244°-245° C.

reactant | 7-[3-(4-aminopiperidino)-propoxy]-2,3-dihydrocyclopenta[c][1]benzopyran-4(1H)-one dihydrochloride | 0.01 mole | Cl.Cl.NC1CCN(CC1)CCCOC1=CC2=C(C3=C(C(O2)=O)CCC3)C=C1
reactant | potassium cyanate | [O-]C#N.[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | O | H2O
product | 2,3-Dihydro-7-[3-(4-ureidopiperidino)-propoxy]-cyclopenta[c][1]benzopyran-4(1H)-one hydrochloride | Cl.N(C(=O)N)C1CCN(CC1)CCCOC1=CC2=C(C3=C(C(O2)=O)CCC3)C=C1 | InChI=1S/C21H27N3O4.ClH/c22-21(26)23-14-7-10-24(11-8-14)9-2-12-27-15-5-6-17-16-3-1-4-18(16)20(25)28-19(17)13-15;/h5-6,13-14H,1-4,7-12H2,(H3,22,23,26);1H
